US09290454B2
A solution of 7 N ammonia in MeOH (3.14 mL, 21.95 mmol, 10.0 equiv.) and ethyl 2-(6-bromo-1-oxo-1H-isochromen-3-yl)acetate (683 mg, 2.195 mmol) was stirred at room temperature for 1 h. Upon completion of the reaction, the excess solvent was concentrated, diluted with 1 N HCl (5 mL), and extracted with EtOAc (2×5 mL). The organic layer was dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0-40% EtOAc/hexanes to give 250 mg of methyl 2-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate as a white solid.

reactant | ammonia | 7 N | N | H3N
reactant | MeOH | 21.95 mmol, 3.14 mL, 10.0 equiv. | CO | CH4O
reactant | ethyl 2-(6-bromo-1-oxo-1H-isochromen-3-yl)acetate | 2.195 mmol, 683 mg | BrC=1C=C2C=C(OC(C2=CC1)=O)CC(=O)OCC | C13H11BrO4
product | methyl 2-(6-bromo-1-oxo-1,2-dihydroisoquinolin-3-yl)acetate | 250 mg | BrC=1C=C2C=C(NC(C2=CC1)=O)CC(=O)OC | C12H10BrNO3
